US04003909
A mixture of 2.68 g. (0.01 mole) of 5-(2-pyridyl)-3-(4-nitrophenyl)-1,2,4-oxadiazole, from part (a), 10 ml. of 10% HCl, 190 ml. of absolute ethanol, and 0.27 g. of 5% Pd/C is reduced on the Parr hydrogenator at 50 psi. until the required amount of hydrogen is absorbed. The catalyst is removed by filtration followed by removal of the ethanol by distillation in vacuo to yield the 5-(2-pyridyl)-3-(4-aminophenyl)-1,2,4-oxadiazole.

reactant | 5-(2-pyridyl)-3-(4-nitrophenyl)-1,2,4-oxadiazole | 0.01 mole | N1=C(C=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H8N4O3
reactant | HCl | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-(2-pyridyl)-3-(4-aminophenyl)-1,2,4-oxadiazole | N1=C(C=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)N | C13H10N4O
